US05885990
Preparation of 6-amidino-1-methoxycarbonylmethyl-2-naphthyl 4-aminoiminomethylaminobenzoate.
170 Milliliters of anhydrous pyridine and 72 ml of DMF were added to 8.1 g of 4-aminoiminomethylaminobenzoic acid.methanesulfonate, 10.0 g of 6-amidino-1-methoxycarbonylmethyl-2-naphthol.methanesulfonate, 71.6 g of DCC and 170 mg of DMAP, followed by stirring for 2 hours under cooling with ice and 24 hours at room temperature. The precipitate was filtered and washed with a small amount of DMF. The filtrate and the wash liquid were combined and this was concentrated under reduced pressure. To the residue was added 50 ml of DMF, and the resulting solution was added dropwise to 700 ml of ether, followed by stirring for 24 hours under cooling with ice. The supernatant was decanted, and then to the residue was added 200 ml of acetone, followed by stirring for 1 hour under cooling with ice. The precipitate was collected by filtration to obtain a crude product. To the collected precipitate was added 300 ml of methanol to dissolve the precipitate. To the solution was added 2 g of active carbon, followed by stirring for 30 minutes at room temperature. Insoluble matter was filtered off and the filtrate was concentrated under reduced pressure. To the residue was added 100 ml of methanol to dissolve the residue with heating. The resulting solution was added dropwise to 300 ml of acetone, followed by stirring for 24 hours under cooling with ice. Then, the precipitate was collected by filtration to obtain 4.2 g of the desired product.

reactant | 4-aminoiminomethylaminobenzoic acid | 8.1 g | NN=CNC1=CC=C(C(=O)O)C=C1 | C8H9N3O2
reactant | methanesulfonate | CS(=O)(=O)[O-]
reactant | 6-amidino-1-methoxycarbonylmethyl-2-naphthol | 10.0 g | C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(=O)OC)O | C14H14N2O3
reactant | DCC | 71.6 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 170 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methanol | 300 ml | CO | CH4O
solvent | DMF | 72 ml | CN(C)C=O | C3H7NO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 6-amidino-1-methoxycarbonylmethyl-2-naphthyl 4-aminoiminomethylaminobenzoate | 4.2 g | NN=CNC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(=O)OC)C=C1 | C22H21N5O4
